US05998429
N-Phenylcarbamic Acid (3S)-1-azabicyclo[2.2.2]octan-3-yl Ester
A solution of (3S)-(+)-quinuclidin-3-ol (0.50 g, 3.93 mmol) [M. Langlois, C. Meyer, and J. L. Soulier, Synth. Comm., 23, 1895-1911 (1992)], phenyl isocyanate (0.47 mL, 4.32 mmol, 1.1 equivalents), and dibutyltin dilaurate (0.013 mL, 0.08 mmol) in anhydrous toluene (20 mL) was heated at reflux under nitrogen for 1 hour. The resulting reaction mixture was evaporated under reduced pressure, and the resulting solid was placed in 1N HCl (25 mL). The resulting aqueous mixture was extracted with ethyl acetate (2×25 mL), basified to pH 10 with Na2CO3, and extracted with chloroform (3×50 mL). The chloroform extracts were combined, dried (MgSO4), and evaporated under reduced pressure. The resulting solid was recrystallized using toluene (5 mL) to afford the title compound (0.875 g, 90%) as a white solid: mp 129.0-130.0° C.; FAB LRMS m /z (relative intensity, %) 247 (MH+, 39), 110 (100); [α]22D =-7.5° (c=1.0, MeOH).

reactant | (3S)-(+)-quinuclidin-3-ol | 3.93 mmol, 0.50 g | N12C[C@H](C(CC1)CC2)O | C7H13NO
reactant | phenyl isocyanate | 4.32 mmol, 0.47 mL, 1.1 equivalents | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | dibutyltin dilaurate | 0.08 mmol, 0.013 mL | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | N-Phenylcarbamic Acid (3S)-1-azabicyclo[2.2.2]octan-3-yl Ester | 0.875 g, 90% | N12C[C@H](C(CC1)CC2)OC(NC2=CC=CC=C2)=O | C14H18N2O2
